US08084448B2
E. 5-[4-(4-Benzenesulfonylbutyl)-2-hydroxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and (4-iodobutane-1-sulfonyl)-benzene analogous to Example 57, steps B, C and D: (M−1)−=423. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.49-1.60 (m, 4 H) 2.40 (t, J=6.69 Hz, 2 H) 4.01 (s, 2 H) 6.46 (s, 1 H) 6.58 (s, 1 H) 7.21 (d, J=7.83 Hz, 1 H) 7.65 (t, J=7.58 Hz, 2 H) 7.71-7.77 (m, 1 H) 7.85-7.90 (m, 2 H)

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | (4-iodobutane-1-sulfonyl)-benzene | ICCCCS(=O)(=O)C1=CC=CC=C1 | C10H13IO2S
product | 5-[4-(4-Benzenesulfonylbutyl)-2-hydroxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C1(=CC=CC=C1)S(=O)(=O)CCCCC1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)O | C18H20N2O6S2
